US08629271B2
b) Benzo[b]thiophen-2-yl(9-(2-fluoro-3-(2-hydroxyethyl)benzyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)methanone
TBAF (1M solution in THF, 2 mL) was added to a solution of benzo[b]thiophen-2-yl(9-(3-(2-(tert-butyldimethylsilyloxy)ethyl)-2-fluorobenzyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)methanone (example 79, step a) (0.370 g) in THF (4 mL). After 0.5 h, the solution was concentrated. Purification by silica gel chromatography eluting with 10:1 ethyl acetate:triethylamine gave the subtitled compound as a gum. Yield 0.26 g.

reactant | TBAF | 1M, 2 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | benzo[b]thiophen-2-yl(9-(3-(2-(tert-butyldimethylsilyloxy)ethyl)-2-fluorobenzyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)methanone | S1C2=C(C=C1C(=O)N1CCOC3(C1)CCN(CC3)CC3=C(C(=CC=C3)CCO[Si](C)(C)C(C)(C)C)F)C=CC=C2 | C32H43FN2O3SSi
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | Benzo[b]thiophen-2-yl(9-(2-fluoro-3-(2-hydroxyethyl)benzyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)methanone | S1C2=C(C=C1C(=O)N1CCOC3(C1)CCN(CC3)CC3=C(C(=CC=C3)CCO)F)C=CC=C2 | C26H29FN2O3S
